US04113940
Pyridine (0.296 g) and phosphorous pentachloride (0.616 g) were added in turn under stirring and cooling at -15° C. to a solution of 2,2,2-trichloroethyl 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylate (1.12 g), mp 175° to 178° C., in dried dichloromethane (20 ml), and the mixture was stirred for 20 minutes at the same temperature and further for 2 hours at room temperature. To the mixture was added absolute methanol (5 ml) under cooling at -15° C., and then the mixture was stirred for 1 hour at the same temperature. To the mixture were dropwise added in turn dimethylaniline (2.2 g) and a solution of 2-thienylacetyl chloride (0.42 g) in dried dichloromethane (5 ml) at the same temperature, and then the mixture was stirred for 2.5 hours at the same temperature. After the reaction, the reaction mixture was in turn washed with 5% hydrochloric acid, water, 5% sodium bicarbonate aqueous solution and water, and then dried. After the solution was concentrated, the obtained oily substance was crystallized by adding ether to give 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate (750 mg), mp 161° to 162° C. (dec.).

reactant | phosphorous pentachloride | 0.616 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-phenylacetamido)-3-cephem-4-carboxylate | 1.12 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H17Cl3N2O4S
reactant | dimethylaniline | 2.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-thienylacetyl chloride | 0.42 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
solvent | Pyridine | 0.296 g | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate | 750 mg | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC=2SC=CC2)=O)=O | C16H15Cl3N2O4S2
